US07381738B2
Part D. Preparation of 4-methoxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester
A solution of 4-hydroxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester in a small amount of DMF and a large excess of iodomethane is treated with silver oxide and stirred at room temperature until the reaction is complete. The reaction mixture is filtered through Celite and concentrated under vacuum yielding a residue. The residue is purified by flash column chromatography providing the title product.

reactant | 4-hydroxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)CO | C23H30F3N3O5
reactant | iodomethane | IC | CH3I
catalyst | silver oxide | [Ag]=O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-methoxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)COC | C24H32F3N3O5
